US05811432
B. 5-Azaoxindole
To a solution of 3,3,7-tribromo-5-azaoxindole (6.4 g, 17.3 mmol) in ethanol (1200 ml) was added 10% Pd on charcoal (3.2 g). The mixture was hydrogenated under 3 atm. hydrogen gas for 3 hours using a Parr shaker. The catalyst was removed by filtration of the mixture through a pad of Celite®, washing well with ethanol. On removal of the solvent, a brown solid remained (predominantly the hydrobromide of the desired product), 3.5 g. This was dissolved in water, treated with activated charcoal and filtered through Celite®. The pH of the filtrate was adjusted to 7.5 by the addition of saturated aqueous NaHCO3 solution. The mixture was then extracted with n-butanol (3×). The combined n-butanol extracts were washed with brine, dried over magnesium sulfate and concentrated in vacuo to leave a solid. This was triturated with butanone and filtered to collect 5-azaoxindole as a tan solid (1.6 g, 69%). After removal of butanone, the mother liquor yielded a solid which was recrystallized from methanol to yield more of the title compound (50 mg), m.p.>250° C.

reactant | 3,3,7-tribromo-5-azaoxindole | 17.3 mmol, 6.4 g | BrC1(C(NC2=C(C=NC=C12)Br)=O)Br | C7H3Br3N2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1200 ml | C(C)O | C2H6O
catalyst | Pd on charcoal | 3.2 g | [Pd] | Pd
product | 5-Azaoxindole | 50 mg | N1C(CC2=CN=CC=C12)=O | C7H6N2O
